US05917036
Preparation of N-Carboxybenzyl-3-fluoro-4-morpholinoaniline
A suspension of 208.4 g (0.8 mol) of 2-chloro-5-fluoro-4-morpholinonitrobenzene in 516.6 g (0.88 mol) of tri(methyltetraethoxy)amine and 105 g of methanol, together with 18 g of a palladium/activated carbon catalyst (5% by weight of palladium, 50% water-moist) is introduced, at room temperature into a 2000 ml autoclave fitted with gas-dispersion stirrer. The autoclave is closed and rendered inert using nitrogen, and the mixture is reacted at a reaction temperature of from 80 to 100° C. at a hydrogen pressure of from 5 to 30 bar until no more hydrogen is absorbed. After the catalyst has been filtered off with suction, 57.5 g (0.72 mol) of 50% strength NaOH are added to the reaction solution at room temperature, followed by 161.6 g (0.9 mol) of benzyl chloroformate (95% strength). When the addition is complete, the mixture is stirred for a further 15 minutes at 50° C., and 775 g of water and 36 g (0.9 mol) of NaOH are added to the reaction solution/suspension. The solid formed is filtered off with suction, washed with water and then recrystallized from methanol.

reactant | 2-chloro-5-fluoro-4-morpholinonitrobenzene | 0.8 mol, 208.4 g | ClC1=C(C=C(C(=C1)N1CCOCC1)F)[N+](=O)[O-] | C10H10ClFN2O3
reactant | hydrogen | [H][H] | H2
reactant | benzyl chloroformate | 0.9 mol, 161.6 g | ClC(=O)OCC1=CC=CC=C1 | C8H7ClO2
reactant | NaOH | 0.9 mol, 36 g | [OH-].[Na+]
reactant | methanol | 105 g | CO | CH4O
catalyst | palladium | 18 g | [Pd] | Pd
solvent | water | 775 g | O | H2O
product | N-Carboxybenzyl-3-fluoro-4-morpholinoaniline | C(=O)(O)N(C1=CC(=C(C=C1)N1CCOCC1)F)CC1=CC=CC=C1 | C18H19FN2O3
